US09233979B2
A solution of (R)-1-(3-amino-4-(methoxymethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (34.8 mg, 0.102 mmol) in chloroform (0.6 ml) and MeOH (0.3 ml) was charged with MgSO4 (45 mg, 0.374 mmol), TFA (24 μl, 0.312 mmol) and acetaldehyde (0.02 ml, 0.354 mmol). The mixture was stirred at RT for 1 hr, then charged with sodium cyanoborohydride (22 mg, 0.350 mmol) before it was stirred at RT for 1.5 hr. The mixture was filtered to remove insoluble matter, rinsing with MeOH and DCM and concentrated in vacuo. The residue was purified by mass-triggered reverse-phase HPLC to provide (R)-1-(3-(ethylamino)-4-(methoxymethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. MS ESI calc'd for C19H25N6O2 [M+H]+ 369. found 369. 1H NMR (ppm, 500 MHz, DMSO-d6) δ 11.64 (s, 1H), 8.96 (s, 1H), 7.33 (m, 4H), 7.23 (m, 1H), 7.15 (s, 1H), 5.56 (t, J=6.5 Hz, 1H), 4.85 (t, J=7.3 Hz), 4.63 (m, 2H), 3.32 (s, 3H, overlaps with H2O peak), 3.22 (m, 2H), 1.39 (d, 6.8 Hz, 3H), 1.20 (t, J=4.9 Hz, 3H).

reactant | (R)-1-(3-amino-4-(methoxymethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.102 mmol, 34.8 mg | NC1=NNC2=C1C(=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)COC | C17H20N6O2
reactant | MgSO4 | 0.374 mmol, 45 mg | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | TFA | 0.312 mmol, 24 μl | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acetaldehyde | 0.354 mmol, 0.02 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.350 mmol, 22 mg | C(#N)[BH3-].[Na+]
solvent | chloroform | 0.6 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 0.3 ml | CO | CH4O
product | (R)-1-(3-(ethylamino)-4-(methoxymethyl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | C(C)NC1=NNC2=C1C(=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)COC | C19H24N6O2
